US04288435
Preparation of 7-[2-(2-Phosphonoethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-(2-benzothiazolyl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer).
A mixture of 7-[2-{2-(O,O-diethylphosphono)ethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-benzothiazolyl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.59 g.), methylene chloride (30 ml.) and bis(trimethylsilyl)acetamide (2.14 g.) was stirred for 30 minutes at 18° to 20° C. and thereto was added trimethylsilyl bromide (2.68 g.) followed by stirring for 5 hours and 45 minutes at 19° to 21° C. The reaction mixture containing 7-[2-(2-phosphonoethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-benzothiazolyl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) was concentrated and to the residue were added methanol (30 ml.) and conc. hydrochloric acid (3 ml.). The mixture was stirred for 1.5 hours at room temperature and then evaporated. The residue was dissolved in an aqueous solution of sodium bicarbonate and the isolation was washed with ethyl acetate and then adjusted to pH about 2 with 10% hydrochloric acid. The precipitates were collected by filtration under cooling, washed with water, dried under reduced pressure and then suspended in methanol (20 ml.). After conc. hydrochloric acid was added to the suspension to dissolve the precipitates, the resulting solution was treated with activated charcoal and then thereto was added dropwise a mixture of conc. ammonia water and methanol (1:5) whereby the pH was adjusted to 3 to 4. The precipitates were collected by filtration under cooling to give a powder of the title compound (0.85 g.), mp. 170° to 210° C.

reactant | bis(trimethylsilyl)acetamide | 2.14 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl bromide | 2.68 g | C[Si](C)(C)Br | C3H9BrSi
reactant | 7-[2-(2-phosphonoethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(2-benzothiazolyl)thiomethyl-3-cephem-4-carboxylic acid | P(=O)(O)(O)CCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC3=C(N2)C=CC=C3)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C23H21N6O9PS4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-Phosphonoethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-(2-benzothiazolyl)thiomethyl-3-cephem-4-carboxylic acid | 0.85 g | P(=O)(O)(O)CCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC3=C(N2)C=CC=C3)C(=O)O)C1=O)C=1N=C(SC1)N | C22H21N6O8PS4
